US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.107 g, 0.3 mmol), 4-butyl-benzylamine (0.088 mL, 0.5 mmol), and K2CO3 (0.083 g, 0.6 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-iodo-2-(4-butyl-benzyl)-2,3-dihydro-isoindol-1-one (0.063 g, 50%). 1H NMR (300 MHz, CDCl3): δ (ppm) 0.88 (t, 3H), 1.34 (m, 2H), 1.56 (m, 2H), 2.58 (t, 2H), 4.16 (s, 2H), 4.76 (s, 2H), 7.14-7.36 (m, 6H), 7.85 (d, 1H). GC-MS: m/z 405 (M)+, 348(M−57)+.

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.3 mmol, 0.107 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 4-butyl-benzylamine | 0.5 mmol, 0.088 mL | C(CCC)C1=CC=C(CN)C=C1 | C11H17N
reactant | K2CO3 | 0.6 mmol, 0.083 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-iodo-2-(4-butyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.063 g, 50% | IC=1C=CC=C2CN(C(C12)=O)CC1=CC=C(C=C1)CCCC | C19H20INO
